US05962458
A solution of 4-(2-(tetrahydropyran-2-yloxy)ethylthio)pyridine (2.73 g, 11 mmol) in acetic acid (8 ml), THF (4 ml) and water (2 ml) was heated at 50° C. for 4 hours. The volatiles were removed by evaporation and the residue azeotroped with toluene to give 4-(2-hydroxyethylthio)pyridine (1.39 g, 79%) as an off-white solid.

reactant | 4-(2-(tetrahydropyran-2-yloxy)ethylthio)pyridine | 11 mmol, 2.73 g | O1C(CCCC1)OCCSC1=CC=NC=C1 | C12H17NO2S
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 4-(2-hydroxyethylthio)pyridine | 1.39 g, 79% | OCCSC1=CC=NC=C1 | C7H9NOS
